US06825191B2
Step 2: Synthesis of 8-chloro-4-t-butoxycarbonyl-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
2.6 g (9.6 mmol) of ethyl (4-chloro-2-nitrobenzyl)aminoacetate was dissolved in 50 ml of dichloromethane. 3.2 g (14.4 mmol) of di-t-butyl dicarbonate and 2.7 ml (19.1 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature for 5 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 20 ml of ethanol. 810 mg (19.1 mmol) of lithium hydroxide was added to the obtained solution, and they were stirred at room temperature for 3 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 20 ml of ethyl acetate. 260 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature for 4 hours. The reaction solution was filtered through Celite. The solvent was evaporated and the obtained crude product was dissolved in 20 ml of DMF. 1.9 g (11.1 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 4.0 ml (28.7 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl (4-chloro-2-nitrobenzyl)aminoacetate | 9.6 mmol, 2.6 g | ClC1=CC(=C(CNCC(=O)OCC)C=C1)[N+](=O)[O-] | C11H13ClN2O4
reactant | di-t-butyl dicarbonate | 14.4 mmol, 3.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 19.1 mmol, 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide | 19.1 mmol, 810 mg | [OH-].[Li+]
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 28.7 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | palladium/carbon | 260 mg | [Pd] | Pd
product | 8-chloro-4-t-butoxycarbonyl-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC=1C=CC2=C(NC(CN(C2)C(=O)OC(C)(C)C)=O)C1 | C14H17ClN2O3
